### PR TITLE
Sequential Colimits draft

### PR DESCRIPTION
**Pull request by IanRay11**

### CODE REVIEW

File: source/UF/SequentialColimits.lagda [hunk 1]
```diff
@@ -0,0 +1,548 @@
+Ian Ray, 21st Jun 2025.
+
+We develop sequential colimits in HoTT/UF. This formalization will follow Section 26 of
```
Comment (martinescardo) [inline source/UF/SequentialColimits.lagda]: Maybe say "follows" instead of "will follow", as this is already done! :-)

File: source/UF/SequentialColimits.lagda [hunk 2]
```diff
@@ -0,0 +1,548 @@
...
+open import UF.Yoneda
+
+\end{code}
+
+A diagram of the following form
+
+          a₀      a₁      a₂
+     A₀ ----> A₁ ----> A₂ ----> ...
+
+is a (directed?) type sequence. We can give a formal specification as follows.
```
Comment (martinescardo) [inline source/UF/SequentialColimits.lagda]: What is the question mark doing here?

File: source/UF/SequentialColimits.lagda [hunk 3]
```diff
@@ -0,0 +1,548 @@
...
+
+\end{code}
+
+We now characterize the identity type of sequential cocones.
+
+\begin{code}
+
+module _ (𝓐@(A , a) : type-sequence 𝓤)
+         (B : 𝓥 ̇)
+          where
```
Comment (martinescardo) [inline source/UF/SequentialColimits.lagda]: Align "where" with "_".

File: source/UF/SequentialColimits.lagda [hunk 4]
```diff
@@ -0,0 +1,548 @@
...
+  ((λ n → u ∘ h n) , λ n → ∼-ap-∘ u (H n))
+
+\end{code}
+
+A sequential cocone over X is universal if the above map is an equivalence for any Y.
+Such a sequential cocone is said to be the sequential colimit of a type sequence.
+
+\begin{code}
+
+ Seqential-Colimit-Universal-Property : (𝓧 : sequential-cocone 𝓐 X)
```
Comment (martinescardo) [inline source/UF/SequentialColimits.lagda]: Typo in name of function: "Seqential" -> "Sequential".

File: source/UF/SequentialColimits.lagda (hunk 2 above)
Comment (IanRay11) [reply source/UF/SequentialColimits.lagda]: Not sure if directed was correct and I wanted to get feedback

Comment (martinescardo) [reply source/UF/SequentialColimits.lagda]: I would just drop the parenthetical remark as it is not adding anything.

File: source/UF/SequentialColimits.lagda [hunk 5]
```diff
@@ -0,0 +1,548 @@
+Ian Ray, 21st Jun 2025.
+
+We develop sequential colimits in HoTT/UF. This formalization follows Section 26 of
+Introduction to Homotopy Type Theory by Egbert Rijke (HoTTest summer school version:
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: HoTTEST

File: source/UF/SequentialColimits.lagda [hunk 6]
```diff
@@ -0,0 +1,548 @@
...
+open import UF.FunExt
+
+module UF.SequentialColimits (fe : Fun-Ext) where
+
+open import MLTT.Spartan
+open import UF.Base
+open import UF.CoconesofSpans fe
+open import UF.Equiv
+open import UF.EquivalenceExamples
+open import UF.Powerset-MultiUniverse
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Importing `UF.Powerset-MultiUniverse` and `UF.Retracts` and was not necessary.

File: source/UF/SequentialColimits.lagda [hunk 7]
```diff
@@ -0,0 +1,548 @@
...
+
+We now characterize the identity type of sequential cocones.
+
+\begin{code}
+
+module _ (𝓐@(A , a) : type-sequence 𝓤)
+         (B : 𝓥 ̇)
+       where
+
+ sequential-cocone-family : sequential-cocone 𝓐 B
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: The name `sequential-cocone-family` doesn't make much sense to me, it's too generic as "family" could refer to all sorts of things. Maybe `sequential-cocones-equality`?

File: source/UF/SequentialColimits.lagda [hunk 8]
```diff
@@ -0,0 +1,548 @@
...
+                          → sequential-cocone 𝓐 B
+                          → 𝓤 ⊔ 𝓥 ̇
+ sequential-cocone-family (s , S) (r , R)
+  = Σ H ꞉ ((n : ℕ) → s n ∼ r n) ,
+    ((n : ℕ) → ∼-trans (S n) (H (succ n) ∘ a n) ∼ ∼-trans (H n) (R n))
+
+ id-to-sequential-cocone-family : (𝓑 𝓑' : sequential-cocone 𝓐 B)
+                                → 𝓑 ＝ 𝓑'
+                                → sequential-cocone-family 𝓑 𝓑'
+ id-to-sequential-cocone-family 𝓑 .𝓑 refl
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Remove the `.` please.

File: source/UF/SequentialColimits.lagda [hunk 9]
```diff
@@ -0,0 +1,548 @@
...
+          ((n : ℕ) → ∼-trans (G n) (H (succ n) ∘ a n) ∼ ∼-trans (H n) (G' n)))
+                                                                                ≃⟨ III ⟩
+       (Σ G' ꞉ ((n : ℕ) → b n ∼ b (succ n) ∘ a n) ,
+        ((n : ℕ) → G n ∼ G' n))
+                                                                                ≃⟨ IV ⟩
+       𝟙                                                                        ■
+    where
+     I = Σ-assoc
+     II = Σ-cong (λ - → Σ-flip)
+     III : (Σ b' ꞉ ((n : ℕ) → A n → B) ,
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: The type signature of `III` can be removed here as it's already implicit right after as well as above.

File: source/UF/SequentialColimits.lagda [hunk 10]
```diff
@@ -0,0 +1,548 @@
...
+                                                                               ≃⟨ VII ⟩
+           (Σ G' ꞉ ((n : ℕ) → b n ∼ b (succ n) ∘ a n) ,
+            ((n : ℕ) → ∼-trans (G n) ∼-refl ∼ ∼-trans ∼-refl (G' n)))
+                                                                               ≃⟨ VIII ⟩
+           (Σ G' ꞉ ((n : ℕ) → b n ∼ b (succ n) ∘ a n) , ((n : ℕ) → G n ∼ G' n))■
+      where
+       V = ≃-sym Σ-assoc
+       VI : (Σ b' ꞉ ((n : ℕ) → A n → B) , ((n : ℕ) → b n ∼ b' n)) ≃ 𝟙 {𝓤 ⊔ 𝓥}
+       VI = (Σ b' ꞉ ((n : ℕ) → A n → B) , ((n : ℕ) → b n ∼ b' n))
+                                                                  ≃⟨ Σ-cong IX ⟩
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: You can remove the type signature of `VI` and the construction of `VI` can be done on single lines, i.e. without the semi-blank `     ≃⟨ ... ⟩` lines.

File: source/UF/SequentialColimits.lagda [hunk 11]
```diff
@@ -0,0 +1,548 @@
...
+                 ((n : ℕ) → b n ＝ b' n)
+                                         ≃⟨ ≃-sym (≃-funext fe b b') ⟩
+                 (b ＝ b')               ■
+         X = singleton-≃-𝟙 (singleton-types-are-singletons b)
+       VII = prop-indexed-sum (b , (λ n → ∼-refl)) (equiv-to-prop VI 𝟙-is-prop)
+       VIII = Σ-cong (λ G' → Π-cong fe fe
+               (λ n → Π-cong fe fe
+                (λ x → ＝-cong (G n x) (∼-trans (λ - → refl) (G' n) x)
+                 refl refl-left-neutral)))
+     IV : (Σ G' ꞉ ((n : ℕ) → b n ∼ b (succ n) ∘ a n) , ((n : ℕ) → G n ∼ G' n)) ≃ 𝟙
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: You don't need the type of `IV`.

Comment (tomdjong) [reply source/UF/SequentialColimits.lagda]: I also don't think you need the semi-blank lines in the construction of `IV`.

File: source/UF/SequentialColimits.lagda [hunk 12]
```diff
@@ -0,0 +1,548 @@
...
+       where
+
+ σ : Σ A → Σ A
+ σ (n , x) = (succ n , a n x)
+
+ f : Σ A + Σ A → Σ A
+ f (inl -) = -
+ f (inr -) = -
+
+ g : Σ A + Σ A → Σ A
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda:247]: Minor suggestion: if you'd like to stay a little closer to the notation `[id , σ]` you could replace the definition by pattern matching with `g = cases id σ`. (The other function `f` would be `cases id id`.)

File: source/UF/SequentialColimits.lagda [hunk 13]
```diff
@@ -0,0 +1,548 @@
...
+
+  K : (n : ℕ) → ι n ∼ ι (succ n) ∘ a n
+  K n x = glue (inl (n , x)) ⁻¹ ∙ glue (inr (n , x))
+
+  sequential-colimit-is-cocone : sequential-cocone 𝓐 sequential-colimit
+  sequential-colimit-is-cocone = (ι , K)
+
+\end{code}
+
+We will now show cocones over the above pushout diagram are equivalent to sequential
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: "show *that* cocones"

File: source/UF/SequentialColimits.lagda [hunk 14]
```diff
@@ -0,0 +1,548 @@
...
+cocones over the above type sequence. 
+
+\begin{code}
+
+  gluing-from-sequential-cocone : ((b , H) : sequential-cocone 𝓐 X)
+                                → (c : Σ A + Σ A)
+                                → b (pr₁ (f c)) (pr₂ (f c)) ＝ b (pr₁ (g c)) (pr₂ (g c))
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Can you set up some descriptive names for the projections from `Σ A` please? Maybe something like `index` and `element-at`?

File: source/UF/SequentialColimits.lagda [hunk 15]
```diff
@@ -0,0 +1,548 @@
...
+       sequential-colimit-is-cocone u)
+      (pushout-cocone-to-seq-cocone (canonical-map-to-cocone sequential-colimit f g
+       pushout-cocone X u))
+      (I , II)
+    where
+     I : (n : ℕ) → u ∘ ι n ∼ curry (u ∘ inrr) n
+     I n x = refl
+     II : (n : ℕ) (x : A n)
+        → ap u (K n x)
+        ＝ refl ∙ (ap u (glue (inl (n , x))) ⁻¹ ∙ ap u (glue (inr (n , x))))
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda:377]: This might become easier to digest if you introduce abbreviations for `glue (inl (n , x))` and `glue (inr (n , x))`.

File: source/UF/SequentialColimits.lagda [hunk 16]
```diff
@@ -0,0 +1,548 @@
...
+     II n x = ap-∙ u (glue (inl (n , x)) ⁻¹) (glue (inr (n , x)))
+             ∙ (ap (_∙ ap u (glue (inr (n , x)))) (ap-sym u (glue (inl (n , x))) ⁻¹)
+             ∙ refl-left-neutral ⁻¹)
+
+\end{code}
+
+Using the above results we prove the universal property for the sequential colimit.
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Maybe: "we prove that the pushout constructed above satisfies the universal property of the sequential colimit."

File: source/UF/SequentialColimits.lagda [hunk 17]
```diff
@@ -0,0 +1,548 @@
...
+
+We unpack useful results from the equivalence obtained from the universal property.
+
+\begin{code}
+
+  module _ (𝓧@(h , H) : sequential-cocone 𝓐 X)
+         where
+
+   canonical-map-seq-cocone-fiber-contr
+    : is-contr (fiber (canonical-map-to-sequential-cocone 𝓐 sequential-colimit X
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda:412]: Maybe indent like this to clarify which arguments belongs where.
```
is-contr (fiber (canonical-map-to-sequential-cocone 𝓐 sequential-colimit X 
                            sequential-colimit-is-cocone) 𝓧)
```

File: source/UF/SequentialColimits.lagda [hunk 18]
```diff
@@ -0,0 +1,548 @@
...
+
+   canonical-map-seq-cocone-fiber-contr'
+    : is-contr (Σ u ꞉ (sequential-colimit → X) ,
+       sequential-cocone-family 𝓐 X ((λ n → u ∘ ι n) , λ n → ∼-ap-∘ u (K n)) 𝓧)
+   canonical-map-seq-cocone-fiber-contr' =
+    equiv-to-singleton'
+     (Σ-cong (λ - → sequential-cocone-identity-characterization 𝓐 X
+      ((λ n → - ∘ ι n) , λ n → ∼-ap-∘ - (K n)) 𝓧)) (canonical-map-seq-cocone-fiber-contr)
+
+   sequential-colimit-fiber-center
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Do we really need `sequential-colimit-fiber-center` and `sequential-colimit-fiber-centrality`? I.e. can't we just refer to ` center (canonical-map-seq-cocone-fiber-contr')` and `centrality (canonical-map-seq-cocone-fiber-contr')` directly?

File: source/UF/SequentialColimits.lagda [hunk 19]
```diff
@@ -0,0 +1,548 @@
...
+
+\end{code}
+
+Finally, we prove the uniqueness principle for sequential colimits.
+
+\begin{code}
+
+  sequential-colimit-uniqueness
+   : (u u' : sequential-colimit → X)
+   → (G : (n : ℕ)
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Just merge the lines for `G`?

File: source/UF/SequentialColimits.lagda [hunk 20]
```diff
@@ -0,0 +1,548 @@
...
+   → u ∼ u'
+  sequential-colimit-uniqueness u u' G M = pushout-uniqueness u u' I II III
+   where
+    I : (z : Σ A) → u (inll z) ＝ u' (inll z)
+    I (n , x) = ap u (glue (inl (n , x))) ∙ (G n x ∙ ap u' (glue (inl (n , x)) ⁻¹))
+    II : (z : Σ A) → u (inrr z) ＝ u' (inrr z)
+    II (n , x) = G n x
+    III : (c : Σ A + Σ A)
+        → ap u (glue c) ∙ II (g c) ＝ I (f c) ∙ ap u' (glue c)
+    III (inl (n , x)) = ap u (glue (inl (n , x))) ∙ G n x
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Please introduce some abbreviations for `ap u (glue (inl (n , x)))` and `ap u' (glue (inl (n , x)))` and similarly for the `inr` terms. This will shorten everything considerably and should make it more readable.

File: source/UF/SequentialColimits.lagda [hunk 21]
```diff
@@ -0,0 +1,548 @@
...
+           (ap u' (glue (inl (n , x)))) ⁻¹
+      VI = ap (_∙ ap u' (glue (inl (n , x)))) (ap (ap u (glue (inl (n , x))) ∙ G n x ∙_)
+            (ap-sym u' (glue (inl (n , x)))))
+      VII = ap (_∙ ap u' (glue (inl (n , x)))) (∙assoc (ap u (glue (inl (n , x))))
+             (G n x) (ap u' (glue (inl (n , x)) ⁻¹)))
+    III (inr (n , x)) = ap u (glue (inr (n , x))) ∙ G (succ n) (a n x)         ＝⟨ IV ⟩
+                        refl ∙ (ap u (glue (inr (n , x))) ∙ G (succ n) (a n x))
+                                                                               ＝⟨ V ⟩
+                        (ap u (glue (inl (n , x))) ∙ ap u (glue (inl (n , x))) ⁻¹)
+                        ∙ (ap u (glue (inr (n , x))) ∙ G (succ n) (a n x))                                                                                               ＝⟨ VI ⟩
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: `＝⟨ VI ⟩` appears way off to the right. (Check the line wrapping in your editor.)

File: source/UF/SequentialColimits.lagda [hunk 22]
```diff
@@ -0,0 +1,548 @@
...
+                        (ap u (glue (inl (n , x))) ∙ ap u (glue (inl (n , x)) ⁻¹))
+                        ∙ (ap u (glue (inr (n , x))) ∙ G (succ n) (a n x))
+                                                                               ＝⟨ VII ⟩
+                        ap u (glue (inl (n , x))) ∙ (ap u (glue (inl (n , x)) ⁻¹)
+                        ∙ (ap u (glue (inr (n , x))) ∙ G (succ n) (a n x)))
+                                                                               ＝⟨ VIII ⟩
+                        ap u (glue (inl (n , x))) ∙ (ap u (glue (inl (n , x)) ⁻¹)
+                        ∙ ap u (glue (inr (n , x))) ∙ G (succ n) (a n x))
+                                                                               ＝⟨ IX ⟩
+                        ap u (glue (inl (n , x))) ∙ (ap u (K n x) ∙ G (succ n) (a n x))                                                                                  ＝⟨ X' ⟩
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: `＝⟨ X' ⟩` appears way off to the right. (Check the line wrapping in your editor.)

File: source/UF/SequentialColimits.lagda (hunk 7 above)
Comment (IanRay11) [reply source/UF/SequentialColimits.lagda]: what about sequential-cocone-identity-family?

Comment (tomdjong) [reply source/UF/SequentialColimits.lagda]: It's slightly better, but I still don't see why the word "family" has to be included to be honest. This type just defines equality of sequential cocones.

Comment (IanRay11) [reply source/UF/SequentialColimits.lagda]: I think it was an artifact of how I use it later (only at one end point), thus it's a type family at the other end point. But I agree.

Comment (tomdjong) [reply source/UF/SequentialColimits.lagda]: (It's always a type family (just indexed by two things), but many things are type families, so why mention it.)

File: source/UF/SequentialColimits.lagda (hunk 15 above)
Comment (IanRay11) [reply source/UF/SequentialColimits.lagda:377]: I can try this. I can also split it up with equational reasoning.

File: source/UF/SequentialColimits.lagda (hunk 20 above)
Comment (IanRay11) [reply source/UF/SequentialColimits.lagda]: Renaming above gives me glue-inl and glue-inr... check out the code now and tell me what you think in regards to renaming ap on these paths.

Comment (IanRay11) [reply source/UF/SequentialColimits.lagda]: Wait I think I can drastically improve this proof. Let me mess around a bit and I'll tag you when it's ready.

File: source/UF/SequentialColimits.lagda [hunk 23]
```diff
@@ -0,0 +1,532 @@
...
+ g = cases id σ
+
+ private
+  index : Σ A → ℕ
+  index = pr₁
+
+  element-at : ((n , x) : Σ A) → A n
+  element-at = pr₂
+
+ module _ (push-ex : pushouts-exist f g)
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: The name `pushouts-exist` is not very good because it actually says that the pushout (singular) of the given span `(f,g)` exists.

File: source/UF/SequentialColimits.lagda [hunk 24]
```diff
@@ -0,0 +1,532 @@
...
+We provide the sequential cocone structure for the sequential colimit. Notice since the
+pushout is formed on a coproduct we get two equations from the canonical pushout gluing.
+These equations will prove useful throughout the development.
+
+\begin{code}
+
+  ι : (n : ℕ) → A n → sequential-colimit
+  ι n x = inrr (n , x)
+
+  glue-inl : ((n , x) : Σ A) → inll (n , x) ＝ ι n x
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: What is the point of introducing these nearly identical names? `glue-inl (n , x)` is barely any different from `glue (inl (n , x))`.
Same for `glue-inr` of course.

File: source/UF/SequentialColimits.lagda [hunk 25]
```diff
@@ -0,0 +1,532 @@
...
+  glue-inl (n , x) = glue (inl (n , x))
+
+  glue-inr : ((n , x) : Σ A) → inll (n , x) ＝ ι (succ n) (a n x)
+  glue-inr (n , x) = glue (inr (n , x))
+
+  K : (n : ℕ) → ι n ∼ ι (succ n) ∘ a n
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: `K` is not a good enough name (to appear in a non-private block).

File: source/UF/SequentialColimits.lagda [hunk 26]
```diff
@@ -0,0 +1,532 @@
...
+  sequential-colimit-is-cocone = (ι , K)
+
+\end{code}
+
+We will quickly provide names and a technical lemma that will prove useful later when
+applying a map to some of the above paths.
+
+\begin{code}
+
+  ap-glue-inl : (u : sequential-colimit → X)
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Again, I don't see why you need these nearly identical synonyms. Maybe I didn't make my earlier suggestion clear. What I meant was to abbreviate some larger terms like `ap u (glue-inl (n , x))` with something short like `p` in the longer proofs below.

File: source/UF/SequentialColimits.lagda [hunk 27]
```diff
@@ -0,0 +1,532 @@
...
+       sequential-colimit-is-cocone u)
+      (pushout-cocone-to-seq-cocone (canonical-map-to-cocone sequential-colimit f g
+       pushout-cocone X u))
+      (I , II)
+    where
+     I : (n : ℕ) → u ∘ ι n ∼ curry (u ∘ inrr) n
+     I n x = refl
+     II : (n : ℕ) (x : A n)
+        → ap u (K n x)
+        ＝ refl ∙ (ap u (glue-inl (n , x)) ⁻¹ ∙ ap u (glue-inr (n , x)))
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: You don't make use of `ap-glue-inl` here, so what did you intend to do?

**Review by tomdjong — CHANGES_REQUESTED** [review]
@IanRay11 I had a look now. I'm afraid I did not make clear what I was suggesting. Hopefully my comments clear it up. Let me know if you have any questions.

File: source/UF/SequentialColimits.lagda (hunk 27 above)
Comment (IanRay11) [reply source/UF/SequentialColimits.lagda]: I think I just missed it

File: source/UF/SequentialColimits.lagda (hunk 23 above)
Comment (IanRay11) [reply source/UF/SequentialColimits.lagda]: Should I reopen the pushout PR to change this?

File: source/UF/SequentialColimits.lagda (hunk 27 above)
Comment (tomdjong) [reply source/UF/SequentialColimits.lagda]: Right, but I think my [bigger point](https://github.com/martinescardo/TypeTopology/pull/357#discussion_r2239516944) might make this obsolete.

File: source/UF/SequentialColimits.lagda (hunk 23 above)
Comment (tomdjong) [reply source/UF/SequentialColimits.lagda]: It can be changed as part of this PR.

File: source/UF/SequentialColimits.lagda [hunk 28]
```diff
@@ -481,50 +469,45 @@ Finally, we prove the uniqueness principle for sequential colimits.
...
-                        ap-glue-inl u (n , x)
-                        ∙ (ap u (K n x) ∙ G (succ n) (a n x))              ＝⟨ VIII ⟩
-                        ap-glue-inl u (n , x) ∙ (G n x ∙ ap u' (K n x))    ＝⟨ IX ⟩
-                        ap-glue-inl u (n , x) ∙ G n x ∙ ap u' (K n x)      ＝⟨ X' ⟩
-                        I (n , x) ∙ ap-glue-inr u' (n , x)                 ∎
+      p = ap u (glue (inl (n , x)))
+      p' = ap u' (glue (inl (n , x)))
+      IV = ap (p ∙ G n x ∙_) (sym-is-inverse p')
+      V = ∙assoc (p ∙ G n x) (p' ⁻¹) p' ⁻¹
+    III (inr (n , x)) = q ∙ G (succ n) (a n x)                                    ＝⟨ IV ⟩
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: Please indent it like this to respect to the 80-char limit.
```agda
    III (inr (n , x)) =
     q ∙ G (succ n) (a n x)                                    ＝⟨ IV ⟩
     (p ∙ p ⁻¹) ∙ (q ∙ G (succ n) (a n x))                     ＝⟨ V ⟩
     p ∙ (p ⁻¹ ∙ (q ∙ G (succ n) (a n x)))                     ＝⟨ VI ⟩
     p ∙ (p ⁻¹ ∙ q ∙ G (succ n) (a n x))                       ＝⟨ VII ⟩
     p ∙ (ap u (seq-colim-homotopy n x) ∙ G (succ n) (a n x))  ＝⟨ VIII ⟩
     p ∙ (G n x ∙ ap u' (seq-colim-homotopy n x))              ＝⟨ IX ⟩
     p ∙ G n x ∙ ap u' (seq-colim-homotopy n x)                ＝⟨ X' ⟩
     I (n , x) ∙ q'                                            ∎
      where
       p = ap u (glue (inl (n , x)))
       q = ap u (glue (inr (n , x)))
       p' = ap u' (glue (inl (n , x)))
       q' = ap u' (glue (inr (n , x)))
       IV = refl-left-neutral ⁻¹ ∙ ap (_∙ (q ∙ G (succ n) (a n x)))
                                      (sym-is-inverse' p)
       V = ∙assoc p (p ⁻¹) (q ∙ G (succ n) (a n x))
       VI = ap (p ∙_) (∙assoc (p ⁻¹) q (G (succ n) (a n x)) ⁻¹)
       VII = ap (p ∙_) (ap (_∙ G (succ n) (a n x)) (ap-on-glue u (n , x) ⁻¹))
       VIII = ap (p ∙_) (M n x)
       IX = ∙assoc p (G n x) (ap u' (seq-colim-homotopy n x)) ⁻¹
       X' = ap (p ∙ G n x ∙_ ) (ap-on-glue u' (n , x))
            ∙ (∙assoc (p ∙ G n x) (p' ⁻¹) q') ⁻¹
```

File: source/UF/SequentialColimits.lagda [hunk 29]
```diff
@@ -0,0 +1,515 @@
...
+       sequential-cocone-identity 𝓐 X
+        ((λ n → u ∘ ι n) , λ n → ∼-ap-∘ u (seq-colim-homotopy n)) 𝓧)
+    → (n : ℕ)
+    → ∼-trans (∼-ap-∘ u (seq-colim-homotopy n)) (λ x → G (succ n) (a n x))
+    ∼ ∼-trans (G n) (H n)
+   sequential-colimit-glue (_ , _ , M) = M
+
+\end{code}
+
+From the universal property we derive the recursion principle and computation rules for
```
Comment (tomdjong) [inline source/UF/SequentialColimits.lagda]: This line, line 443 and line 451 are all too long. Please check that you respect the 80-char limit, elsewhere too. Thanks.

**Comment by tomdjong** [comment]
Thanks again @IanRay11. I'll merge this now.
